** sch_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/ADDER/full_adder_substractor.sch
.subckt full_adder_substractor A B K CIN OUT COUT VSS VDD
*.PININFO K:I B:I CIN:I OUT:O COUT:O A:I
x1 A OUT net1 CIN COUT VSS VDD full_adder
x2 B K net1 VSS VDD XOR2
.ends

* expanding   symbol:  ADDER/full_adder.sym # of pins=5
** sym_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/ADDER/full_adder.sym
** sch_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/ADDER/full_adder.sch
.subckt full_adder A S B Cin Cout VSS VDD
*.PININFO A:B B:B Cin:B S:B Cout:B
x2 B A net1 VSS VDD XOR2
x1 net1 Cin S VSS VDD XOR2
x3 net1 Cin VSS VDD net2 nand2
x4 B A VSS VDD net3 nand2
x5 net2 net3 VSS VDD Cout nand2
.ends


* expanding   symbol:  XOR/XOR2.sym # of pins=3
** sym_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/XOR/XOR2.sym
** sch_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/XOR/XOR2.sch
.subckt XOR2 A B Y VSS VDD
*.PININFO A:I B:I Y:O
x1 A B !B !A Y A !A B !B VSS VDD cg4
x2 A VSS VDD !A inv
x3 B VSS VDD !B inv
.ends


* expanding   symbol:  NAND/nand2.sym # of pins=3
** sym_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/NAND/nand2.sym
** sch_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/NAND/nand2.sch
.subckt nand2 A B VSS VDD Y
*.PININFO A:I Y:O B:I
XM1 Y B VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3.21 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y B net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 Y A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=3.21 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  ./CG4/cg4.sym # of pins=9
** sym_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/CG4/cg4.sym
** sch_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/CG4/cg4.sch
.subckt cg4 P3 P4 P2 P1 OUT N2 N1 N4 N3 VSS VDD
*.PININFO P3:I P1:I N1:I N3:I P4:I P2:I N2:I N4:I OUT:O
XM1 OUT N1 net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 OUT N2 net2 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 N3 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net2 N4 VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 OUT P1 net3 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=8.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 OUT P2 net3 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=8.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 net3 P3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=8.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 net3 P4 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=8.25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  ./INV/inv.sym # of pins=2
** sym_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/INV/inv.sym
** sch_path: /home/erhangok/Documents/Dersler/VLSI/vlsi_sky130b/design/xschem/INV/inv.sch
.subckt inv A VSS VDD Y
*.PININFO A:I Y:O
XM2 Y A VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.65 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 Y A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.end
